US07977344B2
6-Amino-2-(butylamino)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one
N2-Butyl-8-(methoxy)-9-(tetrahydro-3-furanylmethyl)-9H-purine-2,6-diamine (98 mg) was dissolved in methanol (2 mL). To the resultant solution was added 4N hydrogen chloride in 1,4-dioxane (0.5 mL). The reaction mixture was then stirred at ambient temperature until completion (monitored by LCMS) over 2.5 hours. The reaction mixture was then evaporated under reduced pressure to give an oil. To this oil was added water (2 mL) and methanol (2 mL). The resultant solution was then neutralised using 2M sodium hydroxide solution. Further water (5 mL) was added when the product precipitated (pH 4-5). The white solid was isolated by filtration under suction and then washed with water (5 mL). The filter cake was then air-dried under suction to give (68 mg) that was dissolved in ethanol (2 mL). To this solution was added water (2 mL) to give a precipitate. The resultant suspension was heated (90° C., external) to reflux to give a solution. The resultant solution was refluxed for a few minutes before being allowed to cool to ambient room temperature to give a flocculent white solid. This solid was isolated by filtration under suction and the residues transferred using water (8 mL). The filter cake was air-dried under suction and was then dried under vacuo at 50° C. for 4 hours to give a white solid which was then transferred to a vial and dried further at 50° C. (16 hours) to give 55 mg of the title compound as a white solid.

reactant | N2-Butyl-8-(methoxy)-9-(tetrahydro-3-furanylmethyl)-9H-purine-2,6-diamine | 98 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CC1COCC1)OC)N | C15H24N6O2
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | water | 2 mL | O | H2O
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | water | 5 mL | O | H2O
reactant | water | 2 mL | O | H2O
reactant | water | 8 mL | O | H2O
solvent | methanol | 2 mL | CO | CH4O
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | methanol | 2 mL | CO | CH4O
product | 6-Amino-2-(butylamino)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one | 55 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CC1COCC1)=O | C14H22N6O2
